US04906628
(S)-5-Methyl-6-[4-(4-oxo-1,4-dihydropyridin-1-yl)phenyl]-4,5-dihydro-3(2H)-pyridazinone
A mixture of (S)-6-(4-aminophenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone (147 mg), 4H-pyran-4-one (78 mg) and hydrochloric acid (0.1N, 1.5 ml) in water (2 ml) was stirred under reflux under nitrogen for 3 hours. The reaction mixture was cooled to afford the title compound, which was collected, washed with water and dried, 110 mg, m.p. 256°-7° C. (softens 80° C.), [α]D25 =+354° (1.03% in dimethylformamide).

reactant | (S)-6-(4-aminophenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 147 mg | NC1=CC=C(C=C1)C=1[C@H](CC(NN1)=O)C | C11H13N3O
reactant | 4H-pyran-4-one | 78 mg | O1C=CC(C=C1)=O | C5H4O2
reactant | hydrochloric acid | 0.1N, 1.5 ml | Cl | ClH
solvent | water | 2 ml | O | H2O
product | (S)-5-Methyl-6-[4-(4-oxo-1,4-dihydropyridin-1-yl)phenyl]-4,5-dihydro-3(2H)-pyridazinone | C[C@H]1CC(NN=C1C1=CC=C(C=C1)N1C=CC(C=C1)=O)=O | C16H15N3O2
